US08212045B2
(R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (0.854 g, 2.87 mmol), pyridine (0.618 ml, 7.64 mmol), and sodium thiocyanate (0.310 g, 3.82 mmol) were dissolved in acetonitrile (10 mL). The solution was heated to 60° C. for 30 minutes. 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (0.620 g, 1.91 mmol) was added and the reaction was heated at 60° C. overnight. The solution was quenched with saturated aqueous NaHCO3 solution, extracted with EtOAc (3×100 mL), washed with brine, dried over MgSO4, and concentrated. The material was purified over silica gel (25 to 100% ethyl acetate in hexanes) to afford (S)-N-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.600 g, 1.09 mmol).

reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 2.87 mmol, 0.854 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | pyridine | 7.64 mmol, 0.618 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium thiocyanate | 3.82 mmol, 0.310 g | [S-]C#N.[Na+]
reactant | 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 1.91 mmol, 0.620 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C17H16N4OS
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-N-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 1.09 mmol, 0.600 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2 | C27H28N6O3S2
